US04414390
To a suspension of 5-(3-dimethylaminomethylimidazo[1,2-a]pyridine-2-yl)-8-methoxycarbostyril (1.5 g) in acetonitrile (20 ml) was added methyl iodide (1.5 ml) and the mixture was stirred at 40° C. for 1 hour. Crystals thus formed were collected by filtration and recrystallized from water to give 1.7 g of 5-(3-trimethylammoniomethylimidazo[1,2-a]pyridine-2-yl)-8-methoxycarbostyril iodide trihydrate.

reactant | 5-(3-dimethylaminomethylimidazo[1,2-a]pyridine-2-yl)-8-methoxycarbostyril | 1.5 g | CN(C)CC1=C(N=C2N1C=CC=C2)C2=C1C=CC(NC1=C(C=C2)OC)=O | C20H20N4O2
reactant | methyl iodide | 1.5 ml | CI | CH3I
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-(3-trimethylammoniomethylimidazo[1,2-a]pyridine-2-yl)-8-methoxycarbostyril iodide trihydrate | 1.7 g | O.O.O.[I-].C[N+](C)(C)CC1=C(N=C2N1C=CC=C2)C2=C1C=CC(NC1=C(C=C2)OC)=O | InChI=1S/C21H22N4O2.HI.3H2O/c1-25(2,3)13-16-20(22-18-7-5-6-12-24(16)18)14-8-10-17(27-4)21-15(14)9-11-19(26)23-21;;;;/h5-12H,13H2,1-4H3;1H;3*1H2
